US05401774
In 800 ml. of methanol, 60 g. (0.3 mole) of 2,4-difluoro-α-methylcinnamic acid with 1.5 g. of platinum oxide catalyst is shaken under an initial pressure of 42 lbs. of hydrogen until one equivalent of hydrogen is absorbed. The reaction time is 30 minutes. The catalyst is removed by filtration and washed with methanol. The methanol, when evaporated off, leaves near colorless 2,4-difluoro-α-methyldihydrocinnamic acid as an oil which is used in the next step without further purification.

reactant | 2,4-difluoro-α-methylcinnamic acid | 0.3 mole | FC1=C(C=C(C(=O)O)C)C=CC(=C1)F | C10H8F2O2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | methanol | CO | CH4O
product | 2,4-difluoro-α-methyldihydrocinnamic acid | FC1=C(CC(C(=O)O)C)C=CC(=C1)F | C10H10F2O2
